US04707488
D: 3-(3,5-Dichlorophenyl)propyl azide
3-(3,5-Dichlorophenyl)propanol (0.052 mol), tosyl chloride (0.104 mol) and sodium azide (0.104 mol) were reacted substantially as described in Example 7E to obtain 11.7 g (98%) of an oily product.

reactant | 3-(3,5-Dichlorophenyl)propanol | 0.052 mol | ClC=1C=C(C=C(C1)Cl)CCCO | C9H10Cl2O
reactant | tosyl chloride | 0.104 mol | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | sodium azide | 0.104 mol | [N-]=[N+]=[N-].[Na+]
product | 3-(3,5-Dichlorophenyl)propyl azide | 11.7 g, 98% | ClC=1C=C(C=C(C1)Cl)CCCN=[N+]=[N-] | C9H9Cl2N3
